### PR TITLE
[Merged by Bors] - feat: port Algebra.Module.LinearMap 

### PR DESCRIPTION
**Pull request by Vierkantor**
Zulip thread: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/algebra.2Emodule.2Elinear_map.20mathlib4.231587

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/LinearMap.lean [hunk 1]
```diff
@@ -0,0 +1,1252 @@
...
+    exact h
+  map_add f := f.map_add'
+  map_smulₛₗ := LinearMap.map_smul'
+
+-- Porting note: we don't port specialized `CoeFun` instances if there is `FunLike` instead
+#noalign linear_map.has_coe_to_fun
+
+-- Porting note: adding this instance prevents a timeout in `ext_ring_op`
+instance {σ : R →+* S} : FunLike (M →ₛₗ[σ] M₃) M (λ _ ↦ M₃) :=
+  { AddHomClass.toFunLike with }
```
Comment (Vierkantor) [inline Mathlib/Algebra/Module/LinearMap.lean:225]: This instance could be removed if we can speed up `ext_ring_op` in some other way.

File: Mathlib/Algebra/Module/LinearMap.lean [hunk 2]
```diff
@@ -0,0 +1,1251 @@
...
+theorem ext_ring {f g : R →ₛₗ[σ] M₃} (h : f 1 = g 1) : f = g :=
+  ext fun x ↦ by rw [← mul_one x, ← smul_eq_mul, f.map_smulₛₗ, g.map_smulₛₗ, h]
+#align linear_map.ext_ring LinearMap.ext_ring
+
+theorem ext_ring_iff {σ : R →+* R} {f g : R →ₛₗ[σ] M} : f = g ↔ f 1 = g 1 :=
+  ⟨fun h ↦ h ▸ rfl, ext_ring⟩
+#align linear_map.ext_ring_iff LinearMap.ext_ring_iff
+
+-- *TODO*: why are you still timing out?
+set_option maxHeartbeats 300000 in
```
Comment (Vierkantor) [inline Mathlib/Algebra/Module/LinearMap.lean:499]: I don't know how to solve this timeout.

File: Mathlib/Algebra/Module/LinearMap.lean [hunk 3]
```diff
@@ -0,0 +1,1251 @@
...
+#align module.End.semiring Module.EndCat.semiring
+
+/-- See also `module.End.nat_cast_def`. -/
+@[simp]
+theorem _root_.Module.EndCat.nat_cast_apply (n : ℕ) (m : M) : (↑n : Module.EndCat R M) m = n • m :=
+  rfl
+#align module.End.nat_cast_apply Module.EndCat.nat_cast_apply
+
+-- *TODO*: why are you still timing out?
+set_option maxHeartbeats 300000 in
```
Comment (Vierkantor) [inline Mathlib/Algebra/Module/LinearMap.lean:1086]: I don't know how to solve this timeout.

**Review by Vierkantor — COMMENTED** [review]
I'm marking this as "help requested" since there are still two timeouts that I don't know how to fix.

**Comment by Vierkantor** [comment]
leanprover/lean4#2003 solves both of the timeouts, so do we want to invest effort in fixing this ourselves?

File: Mathlib/Algebra/Module/LinearMap.lean (hunk 1 above)
Comment (Vierkantor) [reply Mathlib/Algebra/Module/LinearMap.lean:225]: (Indeed, with Gabriel's changes to Lean this can be deleted again.)

File: Mathlib/Algebra/Module/LinearMap.lean [hunk 4]
```diff
@@ -0,0 +1,1252 @@
...
+
+variable [Module R M] [Module R M₂] [Module S M₃]
+
+variable (σ : R →+* S)
+
+variable (fₗ gₗ : M →ₗ[R] M₂) (f g : M →ₛₗ[σ] M₃)
+
+theorem is_linear : IsLinearMap R fₗ :=
+  ⟨fₗ.map_add', fₗ.map_smul'⟩
+#align linear_map.is_linear LinearMap.is_linear
```
Comment (jcommelin) [inline Mathlib/Algebra/Module/LinearMap.lean:304]:
```suggestion
theorem isLinear : IsLinearMap R fₗ :=
  ⟨fₗ.map_add', fₗ.map_smul'⟩
#align linear_map.is_linear LinearMap.isLinear
```

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
